US06251364B1
To a solution of L-aspartic acid dimethyl ester hydrochloride (2.0 g, 10 mmol) in chloroform (100 mL) was added isonicotinoyl chloride hydrochloride (1.8 g, 10 mmol) and triethylamine (3.0 mL, 21.5 mmol). The reaction mixture was refluxed for 2 h, and then stirred at room temperature for 24 h. The solution was filtered and the filtrate was evaporated to give a whitish oil. This residue was dissolved in 20 mL H2O, and was then extracted with ethyl acetate (2×100 mL). The organic phases were combined, washed with H2O (50 mL), and dried over Na2SO4. Removal of ethyl acetate gave a whitish oil, isonicotinoyl aspartic acid dimethyl ester. Electrospray MS: m/z=267 (M+1, [C12H14N2O5]+) 1H NMR (CDCl3): 2.91-3.17 (m, 2H, CH2), 3.69 (s, 3H, COOCH3), 3.78 (s, 3H, COOCH3), 4.99-5.05 (m, 1H, CH), 7.38-7.41 (d, 1H, NH), 7.62-7.65 (m, 2H, py), 7.82-7.84 (m, 2H, py).

reactant | L-aspartic acid dimethyl ester hydrochloride | 10 mmol, 2.0 g | Cl.COC([C@@H](N)CC(=O)OC)=O
reactant | isonicotinoyl chloride hydrochloride | 10 mmol, 1.8 g | Cl.C(C1=CC=NC=C1)(=O)Cl
reactant | triethylamine | 21.5 mmol, 3.0 mL | C(C)N(CC)CC | C6H15N
solvent | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
solvent | H2O | 20 mL | O | H2O
product | isonicotinoyl aspartic acid dimethyl ester | COC([C@@H](NC(C1=CC=NC=C1)=O)CC(=O)OC)=O | C12H14N2O5
